US06515011B2
1-[(2R)-2-Amino-2-cyclohexylethanoyl]-N-[2-(2-amino-3,3,3-trifluoropropyl)-5-chlorobenzyl]-L-prolinamide
TFA (2.5 mL) was added to a stirred solution of N-[2-(2-amino-3,3,3-trifluoropropyl)-5-chlorobenzyl]-1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-L-prolinamide (0.282 g, 0.48 mmol) in CH2Cl2 (5 mL) and after 1 h the solvent was evaporated in vacuo and the residue was partitioned between EtOAc and saturated aqueous Na2CO3. The organic layer was dried (Na2SO4) and evaporated in vacuo to give the title compound as a foam; MS m/z=489.6.

reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-[2-(2-amino-3,3,3-trifluoropropyl)-5-chlorobenzyl]-1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-L-prolinamide | 0.48 mmol, 0.282 g | NC(CC1=C(CNC([C@H]2N(CCC2)C([C@@H](C2CCCCC2)NC(=O)OC(C)(C)C)=O)=O)C=C(C=C1)Cl)C(F)(F)F | C28H40ClF3N4O4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-[(2R)-2-Amino-2-cyclohexylethanoyl]-N-[2-(2-amino-3,3,3-trifluoropropyl)-5-chlorobenzyl]-L-prolinamide | N[C@@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CC(C(F)(F)F)N)CCC1)C1CCCCC1 | C23H32ClF3N4O2
